US07622466B2
(5-Benzyloxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-methanol
To the solution of 0.53 g (1.3 mmol) 5-benzyloxy-2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-1H-pyrrolo[2,3-b]pyridine in 3 ml tetrahydrofuran 1.6 ml (1.6 mmol) tetra-n-butylammonium fluoride (1M solution in THF) were added. After 75 min. the solution was poured on saturated aqueous sodium bicarbonate solution and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was stirred in tert-butyl methyl ether, filtered and washed with tert-butyl methyl ether to give 0.3 g (88%) of the product as a brown solid.

reactant | 5-benzyloxy-2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-1H-pyrrolo[2,3-b]pyridine | 1.3 mmol, 0.53 g | C(C1=CC=CC=C1)OC=1C=C2C(=NC1)NC(=C2)C(O[SiH](C)C)C(C(C)C)(C)C | C23H32N2O2Si
reactant | tetrahydrofuran | 1.6 mmol, 1M, 3 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (5-Benzyloxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-methanol | 0.3 g, 88% | C(C1=CC=CC=C1)OC=1C=C2C(=NC1)NC(=C2)CO | C15H14N2O2
